US05360802
Step 6: N-[3(R,S)-5-Cyclohexyl-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]N'-[3,4-dihydro-2,2-dioxo-4-oxo-1H-2,3 -benzothiazin-6-yl]urea
To a solution of 5-cyclohexyl-1,3-dihydro-1-methyl-3(R,S)-[(4-nitrophenyloxycarbonyl)amino]-2H-1,4-benzodiazepin-2-one (22 mg, 0.51 mmol) in anhydrous dimethylformamide (3 ml) under nitrogen was added triethylamine (70 μl, 0.51 mmol). The solution was stirred for 5 min before adding a solution of 6-amino-3,4-dihydro-2,2-dioxo-4-oxo-1H-2,3-benzothiazine (107 mg, 0.51 mmol) and triethylamine (70 μl, 0.51 mmol) in anhydrous dimethylformamide (3 ml) and acetonitrile (10 ml). The resulting solution was heated at 50° C. for 10 h, before removing the solvents in vacuo and partitioning the residue between 20% aqueous acetic acid (5 ml) and ethyl acetate (20 ml). The aqueous phase was re-extracted with more ethyl acetate (2×20 ml) and the combined organic extracts dried (Na2SO4) and evaporated in vacuo. The resulting yellow oil was stirred with diethyl ether (10 ml) to give a pale yellow solid. This was purified by flash chromatography on silica gel, eluting with 5-20% methanol/dichloromethane, to afford the title compound (95 mg, 37%) as a pale yellow solid, which was recrystallised from isopropanol/dichloromethane. mp>300° C. 1H NMR (360 MHz, D6-DMSO) δ 0.93 (1H, m), 1.12-1.64 (7H, m), 1.76 (1H, m), 1.89 (1H, m), 2.93 (1H, m), 3.29 (3H, s), 3.96 (2H, s), 5.08 (1H, d, J=8.4 Hz), 7.09 (1H, d, J=8.3 Hz), 7.24 (1H, d, J =8.5 Hz), 7.38 (1H, t, J=7.9 Hz), 7.49 (1H, dd, J=8.2 and 2.4 Hz), 7.55 (1H, d, J=8.3 Hz), 7.63 (1H, t, J=7.9 Hz), 7.74-7.76 (2H, m), 9.04 (1H, s). MS (FAB) 508 (M-1).

reactant | 5-cyclohexyl-1,3-dihydro-1-methyl-3(R,S)-[(4-nitrophenyloxycarbonyl)amino]-2H-1,4-benzodiazepin-2-one | 0.51 mmol, 22 mg | C1(CCCCC1)C1=NC(C(N(C2=C1C=CC=C2)C)=O)NC(=O)OC2=CC=C(C=C2)[N+](=O)[O-] | C23H24N4O5
reactant | triethylamine | 0.51 mmol, 70 μl | C(C)N(CC)CC | C6H15N
reactant | 6-amino-3,4-dihydro-2,2-dioxo-4-oxo-1H-2,3-benzothiazine | 0.51 mmol, 107 mg | NC=1C=CC2=C(C(NS(C2)(=O)=O)=O)C1 | C8H8N2O3S
reactant | triethylamine | 0.51 mmol, 70 μl | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | N-[3(R,S)-5-Cyclohexyl-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]N'-[3,4-dihydro-2,2-dioxo-4-oxo-1H-2,3 -benzothiazin-6-yl]urea | 95 mg, 37% | C1CCCC(C1)C1(C(N(C2=C(C=N1)C=CC=C2)C)=O)NC(=O)NC=2C=CC1=C(C(NS(C1)(=O)=O)=O)C2 | C25H27N5O5S
